US04288350
Preparation of γ-methyl-γ-n- propyl-δ-Valerolactone
A mixture of 50 g. (0.326 mole) of 2-(beta-cyanoethyl) 2-methylpentanal, 27.3 g. (0.489 mole) potassium hydroxide and 150 ml. water was stirred for four and a half hours at reflux temperature. The reaction mixture was cooled to 20° C. and a solution of 13.6 g. (0.359 mole) sodium borohydride in 75 ml. water was added. The reaction temperature rose to 50° C. Stirring was continued for one and a half hours during which period the temperature dropped to 20° C. again. The reaction mixture was acidified with dilute hydrochloric acid. The oil was taken up in ether, washed with water and dried. Distillation yield 39.5 g. (78%) γ-methyl-γ-propyl-δ-valerolactone boiling at 85°-86° C. at 0.6 mm; nD20 1.4599. This oil exhibits a greenish, cumarinic, coconut-like hairy odor.

reactant | 2-(beta-cyanoethyl) 2-methylpentanal | 0.326 mole | C(#N)CCC(C=O)(CCC)C | C9H15NO
reactant | potassium hydroxide | 0.489 mole | [OH-].[K+]
reactant | sodium borohydride | 0.359 mole | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | γ-methyl-γ-n- propyl-δ-Valerolactone | CC1(CCC(=O)OC1)CCC | C9H16O2
